US04839368
To a mixture of 7-chloro-2,3-dihydro-4(1H)-quinolinone (25 g), pyridine (32 g) and dioxane (200 ml) was added 2,4-dichlorobenzoylchloride (37 g) dropwise under cooling at 0° C. to 5° C. with stirring. The mixture was allowed to react at room temperature for additional 3 hours. The reaction mixture was subjected to the procedure described in example 2, and 43 g of 7-chloro-1-(2,4-dichlorobenzoyl)-2,3-dihydro-4-(1H)-quinolinone was obtained as white crystal.

reactant | 7-chloro-2,3-dihydro-4(1H)-quinolinone | 25 g | ClC1=CC=C2C(CCNC2=C1)=O | C9H8ClNO
reactant | pyridine | 32 g | N1=CC=CC=C1 | C5H5N
reactant | 2,4-dichlorobenzoylchloride | 37 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 7-chloro-1-(2,4-dichlorobenzoyl)-2,3-dihydro-4-(1H)-quinolinone | 43 g | ClC1=CC=C2C(CCN(C2=C1)C(C1=C(C=C(C=C1)Cl)Cl)=O)=O | C16H10Cl3NO2
